US07910740B2
[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-[4-(3-methoxy-phenyl)-thiazol-2-yl]-amine
The title compound was prepared in analogy to example 1 step e) from 77 mg (0.33 mmol) 2-bromo-3′-methoxyacetophenon and 79 mg (0.3 mmol) [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea. The solvent was evaporated under reduced pressure and the crude reaction was stirred with diethyl ether and little ethanol for 15 minutes at room temperature. The product was filtered off and dried to yield 118 mg (100%) [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-[4-(3-methoxy-phenyl)-thiazol-2-yl]-amine as a light green solid. MS ISP (m/e): 393.2 (100) (M+H)+. 1H NMR (DMSO-D6, 250 MHz): δ (ppm)=10.72 (s, 1H), 9.31 (s, 1H), 8.06 (s, 1H), 7.69 (s, 1H), 7.54-7.51 (m, 4H), 7.35 (t, 1H), 7.28 (d, 1H), 6.90 (d, 1H), 3.93 (s, 3H), 3.81 (s, 3H), 2.35 (s, 3H).

reactant | 2-bromo-3′-methoxyacetophenon | 0.33 mmol, 77 mg | BrCC(=O)C1=CC(=CC=C1)OC | C9H9BrO2
reactant | [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea | 0.3 mmol, 79 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=S)N | C12H14N4OS
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | ethanol | C(C)O | C2H6O
product | [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-[4-(3-methoxy-phenyl)-thiazol-2-yl]-amine | 118 mg, 100% | COC=1C=C(C=CC1N1C=NC(=C1)C)NC=1SC=C(N1)C1=CC(=CC=C1)OC | C21H20N4O2S
